US05234946
Production of 3-(1-pyrrolidinyl)benzyl alcohol
0.25 g of N-(3-ethoxycarbonylphenyl)succinimide [synthesized by heat condensing ethyl m-aminobenzoate with succinic anhydride in acetic acid] was dissolved in 5 ml of anhydrous tetrahydrofuran, and with stirring under ice cooling, 0.17 g of lithium aluminium hydride was added. The mixture was maintained at room temperature for 30 minutes, and then heated under reflux for 4 hours. After the reaction, ethyl acetate and water were added. The organic layer was separated, and then worked up in a customary manner and purified by medium-pressure liquid chromatography [Lobar column, size B, Lichroprep Si 60 (E. Merck & Co.); eluting solvent: hexane/ethyl acetate=10/1) to give 84 mg (yield 47%) of the captioned compound as a colorless oil.

reactant | N-(3-ethoxycarbonylphenyl)succinimide | 0.25 g | C(C)OC(=O)C=1C=C(C=CC1)N1C(CCC1=O)=O | C13H13NO4
reactant | lithium aluminium hydride | 0.17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(1-pyrrolidinyl)benzyl alcohol | 84 mg, yield 47% | N1(CCCC1)C=1C=C(CO)C=CC1 | C11H15NO
